US07560558B2
Compound 187: Methyl 8-[2-(6,7-dimethoxy-quinolin-4-yloxy)-5-methyl-phenyl]-8-oxo-octanoate
Methyl 8-(2-hydroxy-5-methyl-phenyl)-8-oxo-octanoate (271 mg), 4-chloro-6,7-dimethoxyquinoline (220 mg), and 4-dimethylaminopyridine (237 mg) were suspended in o-dichlorobenzene (20 ml) to prepare a suspension which was then stirred at 120° C. overnight. The reaction solution was cooled to room temperature, and the solvent was removed by distillation under the reduced pressure. Water was then added to the residue, and the mixture was extracted with chloroform. The chloroform layer was washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-hexane to give the title compound (16 mg, yield 3.5%).

reactant | Methyl 8-(2-hydroxy-5-methyl-phenyl)-8-oxo-octanoate | 271 mg | OC1=C(C=C(C=C1)C)C(CCCCCCC(=O)OC)=O | C16H22O4
reactant | 4-chloro-6,7-dimethoxyquinoline | 220 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
catalyst | 4-dimethylaminopyridine | 237 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 20 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | Methyl 8-[2-(6,7-dimethoxy-quinolin-4-yloxy)-5-methyl-phenyl]-8-oxo-octanoate | 16 mg, yield 3.5% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)C)C(CCCCCCC(=O)OC)=O | C27H31NO6
